US04358458
15 g of magnesium chips are reacted with 94.2 g of bromobenzene in 250 ml of absolute ether at 30° to 35° C., followed by the dropwise addition over a period of 30 minutes at 0° to 10° C. of 24.5 g of chloroacetic acid ethyl ester. After stirring for 1 hour, the reaction mixture is poured onto ice, acidified with dilute hydrochloric acid and extracted by shaking with methylene chloride. The organic phase is washed twice with water, subsequently dried over sodium sulphate and concentrated in vacuo. The oily residue is distilled in a high vacuum at 135°-140° C./0.03 Torr. 2-Chloro-1,1-diphenyl-ethan-1-ol melting at 64° to 66° C. is obtained in a yield of 32.8 g.

reactant | magnesium | 15 g | [Mg] | Mg
reactant | bromobenzene | 94.2 g | BrC1=CC=CC=C1 | C6H5Br
reactant | chloroacetic acid ethyl ester | 24.5 g | C(C)OC(CCl)=O | C4H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 250 ml | CCOCC | C4H10O
product | 2-Chloro-1,1-diphenyl-ethan-1-ol | ClCC(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C14H13ClO
